US08563723B2
4-Amino-N-[(8-benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide
To a solution of 1.35 g 4-amino-N-[(8-benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-methylsulfanyl-methylene]-benzenesulfonamide in 30 mL MeOH was added 2.26 mL (10 equiv.) of a 70% aqueous solution of ethylamine. The mixture was stirred for a weekend at room temperature and concentrated on silica. Purification with flash column chromatography (DCM→DCM/MeOH 99:1→DCM/MeOH 95:5) yielded 1.16 g (87%) of a pale yellow glass. 1H NMR (400 MHz, CDCl3) δ 1.14 (t, J=7 Hz, 3H), 1.50-1.60 (m, 2H), 1.73-1.84 (m, 2H), 2.11-2.26 (m, 2H), 2.63-2.76 (m, 2H), 3.41-3.53 (m, 2H), 3.79 (s, 2H), 3.98 (s, 2H), 6.62-6.70 (m, 2H), 6.76 (s, 1H), 6.97 (br s, 1H), 7.22-7.36 (m, 5H), 7.67-7.75 (m, 2H).

reactant | 4-amino-N-[(8-benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-methylsulfanyl-methylene]-benzenesulfonamide | 1.35 g | NC1=CC=C(C=C1)S(=O)(=O)N=C(SC)N1CC2(C=N1)CCN(CC2)CC2=CC=CC=C2 | C22H27N5O2S2
reactant | ethylamine | C(C)N | C2H7N
solvent | MeOH | 30 mL | CO | CH4O
product | 4-Amino-N-[(8-benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide | 1.16 g, 87% | NC1=CC=C(C=C1)S(=O)(=O)N=C(NCC)N1CC2(C=N1)CCN(CC2)CC2=CC=CC=C2 | C23H30N6O2S
